US08084448B2
B. 4-Vinylpyrazole-1-carboxylic Acid Benzyl Ester
A mixture of 4-iodopyrazole-1-carboxylic acid benzyl ester (2.03 g, 6.20 mmol), Pd2(dba)3 (120 mg, 0.131 mmol), P(o-tolyl)3 (283 mg, 0.929 mmol) and tributylvinyltin (2.71 mL, 9.28 mmol) in CH3CN (15 ml) is heated at 80° C. for 3 h. The mixture is cooled to RT, stirred with aq. KF for 15 min and filtered through Celite. The filtrate is partitioned between EtOAc and brine. The organic layer is dried over MgSO4, concentrated and chromatographed to afford the title compound as a light yellow solid: 1H NMR (CDCl3) δ 8.06 (s, 1H), 7.84 (s, 1H), 7.50-7.32 (m, 5H), 6.51 (dd, J=16.0, 12.0 Hz, 1H), 5.60 (d, J=16.0 Hz, 1H), 5.46 (s, 2H), 5.26 (d, J=12.0 Hz, 1H).

reactant | 4-iodopyrazole-1-carboxylic acid benzyl ester | 6.20 mmol, 2.03 g | C(C1=CC=CC=C1)OC(=O)N1N=CC(=C1)I | C11H9IN2O2
reactant | P(o-tolyl)3 | 0.929 mmol, 283 mg | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | tributylvinyltin | 9.28 mmol, 2.71 mL | C(CCC)C(=C(CCCC)CCCC)[Sn]
reactant | KF | [F-].[K+]
solvent | CH3CN | 15 ml | CC#N | C2H3N
catalyst | Pd2(dba)3 | 0.131 mmol, 120 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-Vinylpyrazole-1-carboxylic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(=O)N1N=CC(=C1)C=C | C13H12N2O2
